US06906067B2
A solution of neopentylamine (2.0 g, 23.0 mmol), acetyl chloride (1.96 mL, 27.6 mmol), triethylamine (3.84 mL, 27.5 mmol), and DCM (100 mL) were stirred at room temp for 2 h. The mixture was poured into water and extracted with DCM (3×40 mL). The organic phase was dried over Na2SO4, and the solvent was removed to afford N-neopentylacetamide as white solid (2.90 g, 98%). NMR confirmed the structure of N-neopentylacetamide.

reactant | neopentylamine | 23.0 mmol, 2.0 g | C(C(C)(C)C)N | C5H13N
reactant | acetyl chloride | 27.6 mmol, 1.96 mL | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 27.5 mmol, 3.84 mL | C(C)N(CC)CC | C6H15N
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-neopentylacetamide | 2.90 g, 98% | C(C(C)(C)C)NC(C)=O | C7H15NO
